US06544989B2
Methyl 4-fluoro-3-nitrophenylacetate (5.0 g, 0.023 mol) and iron powder (3 g, 0.053 mol) were suspended in a mixture of propan-2-ol (50 ml) and water (5 ml). Concentrated hydrochloric acid (5 drops) was added at room temperature and the mixture was heated at reflux with stirring for 2 hours. The reaction mixture was cooled, diluted with diethyl ether, filtered through diatomaceous earth and the resulting filtrate was evaporated in vacuo. The residue was further purified by chromatography on silica gel, eluting with diethyl ether to yield methyl 3-amino-4-fluorophenylacetate (3.5 g) as a yellow oil.

reactant | Methyl 4-fluoro-3-nitrophenylacetate | 0.023 mol, 5.0 g | FC1=C(C=C(C=C1)CC(=O)OC)[N+](=O)[O-] | C9H8FNO4
solvent | propan-2-ol | 50 ml | CC(C)O | C3H8O
solvent | water | 5 ml | O | H2O
catalyst | hydrochloric acid | 5 drops | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | iron | 0.053 mol, 3 g | [Fe] | Fe
product | methyl 3-amino-4-fluorophenylacetate | 3.5 g | NC=1C=C(C=CC1F)CC(=O)OC | C9H10FNO2
